US05217643
Production of 4-nonanoyloxy-2,3,5,6-tetrafluorophenol (Example Compound No. 3-33)
2.0 g (11.0 mM) of 2,3,5,6-tetrafluorohydroquinone, 0.87 g (5.5 mM) of nonanoic acid, 1.13 g (5.5 mM) of dicyclohexylcarbodiimide and a catalytic amount of 4-pyrrolidinopyridine were added to 20 ml of tetrahydrofuran, followed by stirring for 3 hours at room temperature. After the reaction, the insoluble residue was filtered off, followed by distilling-off of the solvent to obtain a crude product. The crude product was purified by silica gel column chromatography (eluent: toluene) to obtain 0.57 g of an objective product (Yield: 32.2%).

reactant | 2,3,5,6-tetrafluorohydroquinone | 11.0 mM, 2.0 g | FC1=C(O)C(=C(C(=C1F)O)F)F | C6H2F4O2
reactant | nonanoic acid | 5.5 mM, 0.87 g | C(CCCCCCCC)(=O)O | C9H18O2
reactant | dicyclohexylcarbodiimide | 5.5 mM, 1.13 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 4-pyrrolidinopyridine | N1(CCCC1)C1=CC=NC=C1 | C9H12N2
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 4-nonanoyloxy-2,3,5,6-tetrafluorophenol | 0.57 g, Yield: 32.2% | C(CCCCCCCC)(=O)OC1=C(C(=C(C(=C1F)F)O)F)F | C15H18F4O3
